US05322638
A mixture of 5.4 g of 2-(3',4'-difluoro-4-biphenylyl)dioxolane; 100 ml of toluene and 20 ml of formic acid was stirred for 16 hours. The formic acid phase was separated and the toluene phase was washed neutral with two 50 ml portions of saturated sodium hydrogen carbonate solution and three 75 ml portions of water, dried over sodium sulphate and concentrated. There were obtained 4.3 g of p-(3,4-difluorophenyl)benzaldehyde.

reactant | 2-(3',4'-difluoro-4-biphenylyl)dioxolane | 5.4 g | FC=1C=C(C=CC1F)C1=CC=C(C=C1)C1OCCO1 | C15H12F2O2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | p-(3,4-difluorophenyl)benzaldehyde | 4.3 g | FC=1C=C(C=CC1F)C1=CC=C(C=O)C=C1 | C13H8F2O
